US07157604B2
5-(Acetylamino)-1-indanone (10.0 g, 52.3 mmol) was added to a solution of KOH (87.7%, 0.66 g, 10.3 mmol) in EtOH (200 mL). The resulting suspension was stirred at room temperature while butyraldehyde (6.1 mL, 67.8 mmol) was added dropwise over two minutes. After stirring at room temperature for an additional 15 minutes, the mixture was treated with 10% Pd/C and stirred under a H2 atmosphere (balloon) for 19 hours. The mixture was filtered through a pad of silica gel and the pad washed with EtOAc. The filtrate was washed with 1N HCl, 5% NaHCO3, water, and brine, dried over MgSO4, filtered, and concentrated under vacuum to an orange oil (12 g). The crude product was purified by Biotage flash chromatography on a 75 L silica gel column (7.5×35 cm), eluting with 2:1 hexane-EtOAc, to afford 5-(acetylamino)-2-butyl-1-indanone (8.8 g, 69%) as a clear oil.

reactant | 5-(Acetylamino)-1-indanone | 52.3 mmol, 10.0 g | C(C)(=O)NC=1C=C2CCC(C2=CC1)=O | C11H11NO2
reactant | KOH | 10.3 mmol, 0.66 g | [OH-].[K+]
reactant | butyraldehyde | 67.8 mmol, 6.1 mL | C(CCC)=O | C4H8O
solvent | EtOH | 200 mL | CCO | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 5-(acetylamino)-2-butyl-1-indanone | 8.8 g, 69% | C(C)(=O)NC=1C=C2CC(C(C2=CC1)=O)CCCC | C15H19NO2
